US06440975B1
2-(4,6-Dimethoxy-2-triazinylamino)-2-(9-fluorenyl)acetic acid
2.29 g (9.6 mmol) of 2-amino-2-(9-fluorenyl)acetic acid, 0.70 g (4.0 mmol) of 4,6-dimethoxy-2-chlorotriazine and 0.51 g (4.8 mmol) of sodium carbonate were introduced into a mixture of 16 ml of DMF and 16 ml of water and stirred at 80° C. for 13 hours. Then ethyl acetate and water were added and the phases were separated. The aqueous phase was acidified with 6 normal HCl and extracted three times with ethyl acetate. The organic phases were dried with MgSO4 and concentrated. The crude product was chromatographed on silica gel with ethyl acetate/n-heptane (1:1). 0.44 g (29.1%) of a white powder was obtained; RF=0.135, melting point 182-186° C.

reactant | 2-amino-2-(9-fluorenyl)acetic acid | 9.6 mmol, 2.29 g | NC(C(=O)O)C1C2=CC=CC=C2C=2C=CC=CC12 | C15H13NO2
reactant | 4,6-dimethoxy-2-chlorotriazine | 4.0 mmol, 0.70 g | COC1=NN(NC(=C1)OC)Cl | C5H8ClN3O2
reactant | sodium carbonate | 4.8 mmol, 0.51 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 16 ml | O | H2O
product | 2-(4,6-Dimethoxy-2-triazinylamino)-2-(9-fluorenyl)acetic acid | 0.44 g, 29.1% | COC1=NN(NC(=C1)OC)NC(C(=O)O)C1C2=CC=CC=C2C=2C=CC=CC12 | C20H20N4O4
